US07838498B2
Preparation of (2-bromo-5-chloro-4-(4-ethylbenzyl)phenyl)methanol (Intermediate F)
To a solution of methyl 2-bromo-5-chloro-4-(4-ethylbenzoyl)benzoate (7.64 g, 20 mmol) in 2,2,2-trifluoroacetic acid (38 mL) was added triethylsilane (5.88 mL, 40 mmol) under argon. After it was stirred for 10 min at room temperature, trifluoromethanesulfonic acid (0.1 mL) was added. The reaction temperature was raised from 26° C. to reflux. After stirring for 2 h, TLC (PE:EtOAc=6:1, Rf=0.7) showed the reaction was complete. The reaction mixture was evaporated and the residue was dissolved in EtOAc (150 mL). The organic layer was washed 2× with H2O, 2× with NaHCO3, and 2× with brine, and then dried over anhydrous Na2SO4 Concentration under reduced pressure provided the title compound as a white solid. Yield: 7.2 g (100%). 1H-NMR (CDCl3, 300 MHz) δ 7.85 (s, 1H), 7.44 (s, 1H), 7.17 (s, 1H), 7.14 (s, 1H), 7.10 (s, 1H), 7.07 (s, 1H), 4.05 (s, 2H), 3.92 (s, 3H), 2.63 (q, J=7.8 Hz, 2H), 1.24 (t, J=7.8 Hz, 3H).

reactant | methyl 2-bromo-5-chloro-4-(4-ethylbenzoyl)benzoate | 20 mmol, 7.64 g | BrC1=C(C(=O)OC)C=C(C(=C1)C(C1=CC=C(C=C1)CC)=O)Cl | C17H14BrClO3
reactant | triethylsilane | 40 mmol, 5.88 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoromethanesulfonic acid | 0.1 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | 2,2,2-trifluoroacetic acid | 38 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (2-bromo-5-chloro-4-(4-ethylbenzyl)phenyl)methanol | BrC1=C(C=C(C(=C1)CC1=CC=C(C=C1)CC)Cl)CO | C16H16BrClO
